US09388189B2
a) 4-Methoxybenzyl 4,6-dichloropyrimidine-5-carboxylate
(4-Methoxyphenyl)methanol (356 mg, 2.58 mmol) was dissolved in tetrahydrofuran (10 ml) and triethylamine (790 μl, 5.67 mmol) was added. Then a solution of 4,6-dichloropyrimidine-5-carbonyl chloride (600 mg, 2.84 mmol, prepared according to E. V. Tarasov et al. Synlett 2000, 5, 625-626) in tetrahydrofuran (4 ml) was dropwise added. The reaction mixture was stirred at room temperature for 3 days. The reaction mixture was then diluted with dichloromethane, washed with 4% sodium bicarbonate solution, dried over magnesium sulphate, filtered and evaporated to give 732 mg (81% yield) of the title compound, that was used in the next step without further purification. Purity 84%.

reactant | (4-Methoxyphenyl)methanol | 2.58 mmol, 356 mg | COC1=CC=C(C=C1)CO | C8H10O2
reactant | triethylamine | 5.67 mmol, 790 μl | C(C)N(CC)CC | C6H15N
reactant | 4,6-dichloropyrimidine-5-carbonyl chloride | 2.84 mmol, 600 mg | ClC1=NC=NC(=C1C(=O)Cl)Cl | C5HCl3N2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-Methoxybenzyl 4,6-dichloropyrimidine-5-carboxylate | 732 mg, 81% yield | ClC1=NC=NC(=C1C(=O)OCC1=CC=C(C=C1)OC)Cl | C13H10Cl2N2O3
